US04195033
A mixture of 3,3-dimethypent-4-enoic acid (18.2 g.), carbon tetrachloride (100 ml.), bromotrichloromethane (57.0 g.) and benzoyl peroxide (0.15 g.) was refluxed under a nitrogen atmosphere for 72 hours after which the volatile portion was removed by evaporation under reduced pressure. The residue was recrystallised from petroleum ether (boiling range 80° to 100° C.) to yield 4-bromo-3,3-dimethyl-6,6,6-trichlorohexanoic acid, m.p. 123°-124° C.

reactant | 3,3-dimethypent-4-enoic acid | 18.2 g | CC(CC(=O)O)(C=C)C | C7H12O2
reactant | bromotrichloromethane | 57.0 g | BrC(Cl)(Cl)Cl | CBrCl3
reactant | benzoyl peroxide | 0.15 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-3,3-dimethyl-6,6,6-trichlorohexanoic acid | BrC(C(CC(=O)O)(C)C)CC(Cl)(Cl)Cl | C8H12BrCl3O2
